*************************************
* nTron                             *
*************************************
.subckt ntron_symm g d s
+ params: width_g=100n
+ width_s=200n width_d=200n width_c=100n
+ sq_g=2 sq_d=5 sq_s=5 sq_c=2 thickness=5n
+ Rsheet=300 Tc=12 Tsub=4 Jd_0K=46G C=0.6 A1=0.5
+ kappa=0.108 Cheat=4.4k hc=400k
*Jd_0K critical current density at Tsub=0 K (A/m^2)
*Rsheet sheet resistance (ohms/sq)
*Tc is critical temp (K)
*Tsub is substrate temp (K)
*C is constrition factor (Isw/Idep)
*A1: initial reduction in Isw,ch when gate is switched
*kappa: thermal conductivity of nanowire W/(m K)
*Cheat: specific heat per unit volume of wire J/(m^3 K)
*hc: thermal conductivity of nanowire-substrate interface W/(m^2 K)

*add temperature dependence for Jc
.PARAM Jc={C*Jd_0K*(1-(Tsub/Tc)**2)**(3/2)}

*Critical currents
.PARAM Isw_g={Jc*width_g*thickness}
.PARAM Isw_d={Jc*width_d*thickness}
.PARAM Isw_s={Jc*width_s*thickness}
.PARAM Isw_c={Jc*width_c*thickness}

*Electrical/Superconducting Parameters
.PARAM orderParam0 = {1.76*Tc}
.PARAM orderParamT = {orderParam0*tanh(1.74*sqrt(Tc/Tsub-1))}
.PARAM inductivity = {1.38p*sheetRes/Tc*(orderParam0/(orderParamT*tanh(orderParamT/(2*Tsub))))}
* H/square

.PARAM Lind_g = {inductivity*sq_g}
.PARAM Lind_d = {inductivity*sq_d}
.PARAM Lind_s = {inductivity*sq_s}
.PARAM Lind_c = {inductivity*sq_c}

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

* Normal resistances
.PARAM Rnorm_g = {Rsheet*sq_g}
.PARAM Rnorm_d = {Rsheet*sq_d}
.PARAM Rnorm_s = {Rsheet*sq_s}
.PARAM Rnorm_c = {Rsheet*sq_c}

* units of ohms/square
.PARAM psi={Rsheet*(Jc*thickness)**2/(hc*(Tc-Tsub))}
* psi is the Stekly parameter.
.PARAM vo={1*sqrt(hc*kappa/thickness)/Cheat}
* vo is characteristic velocity

Bpsi N_psi 0 V={psi}
Bjc N_jc 0 V={Jc}
Bihs N_Ihs 0 V={Ihs_c}
Bisw N_Isw 0 V={Isw_c}

.PARAM Ihs_g={sqrt(2/psi)*Isw_g}
.PARAM Ihs_s={sqrt(2/psi)*Isw_s}
.PARAM Ihs_c={sqrt(2/psi)*Isw_c}
.PARAM Ihs_d={sqrt(2/psi)*Isw_d}

*Unitless Parameters
.PARAM delta={0.01}
* a small offset value for avoiding
* singularity in hotspot velocity

*Gate switching parameters
.PARAM beta = 12.82e-6

*********************************************************************************
** MAIN CIRCUIT GATE **
*********************************************************************************
* inductor
Lg g N_g_int Flux=((1-(v(N_g_res)/{Rnorm_g})+0.001)*{Lind_g}/(2*cos((2/3)*asin((C*abs(x))/{Isw_g}))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}

* hotspot resistor
B_Rg N_g_int center V=if(v(N_g_res)>0,v(N_g_res)*i(B_Rg),0)
* v(N_g_res) is resistance of hotspot

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
R_g_state N_g_state 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Lg)) - {Isw_g} > 0
.rule norm sc abs(I(Lg)) - {Ihs_g} < 0
.output (N_g_state) state
.endmachine
* v(N_g_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current source that represents
*hotspot S-N boundary velocity

B_g_hotspot N_g_res 0 V=sdt(if(v(N_g_state) & v(N_g_res)<{Rnorm_g},
+(2*Rsheet*vo/width_g)*
+(psi*(i(Lg)/{Isw_g})**2-2)
+/((sqrt((({psi}*(i(Lg)/{Isw_g})**2-1)+abs({psi}*(i(Lg)/{Isw_g})**2-1))/2)+{delta})),0),
+0, V(N_g_state)<0.5)

*********************************************************************************
** MODULATION OF CHANNEL CRITICAL CURRENT **
*********************************************************************************
R_Isw_suppress N_Isw_channel 0 1
B_Isw_suppress 0 N_Isw_channel I=if(v(N_g_state),min({A1}*exp(-(abs(i(Lg))-{Isw_g})/{beta}),1),1)

*********************************************************************************
** CHANNEL HOTSPOT **
*********************************************************************************
* source/drain inductor
Ls s N_s_int Flux=((1.001-(v(N_s_res)/{Rnorm_s}))*{Lind_s}/(2*cos((2/3)*asin((C*abs(x))/{Isw_s}))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}
Ld d N_d_int Flux=((1.001-(v(N_d_res)/{Rnorm_d}))*{Lind_d}/(2*cos((2/3)*asin((C*abs(x))/{Isw_d}))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}
Lcs N_s N_cs Flux=(0.5*(1.001-(v(N_c_res)/{Rnorm_c}))*{Lind_c}/(2*cos((2/3)*asin((C*abs(x))/{Isw_c}))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}
Lcd N_d N_cd Flux=(0.5*(1.001-(v(N_c_res)/{Rnorm_c}))*{Lind_c}/(2*cos((2/3)*asin((C*abs(x))/{Isw_c}))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}
 
* channel hotspot resistors
B_Rcs N_cs center V=if(v(N_c_res)>0, v(N_c_res)/2*i(B_Rcs), 0)
B_Rcd N_cd center V=if(v(N_c_res)>0, v(N_c_res)/2*i(B_Rcd), 0)
B_Rs N_s N_s_int V=if(v(N_s_res)>0, v(N_s_res)*i(B_Rs), 0)
B_Rd N_d N_d_int V=if(v(N_d_res)>0, v(N_d_res)*i(B_Rd), 0)
* v(N_c_res) is resistance of channel hotspot

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
*channel state machine
R_c_state N_c_state 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Lcs)) - {Isw_c}*abs(i(R_Isw_suppress)) > 0
.rule sc norm abs(I(Lcd)) - {Isw_c}*abs(i(R_Isw_suppress)) > 0
.rule norm sc if((abs(I(Lcd)) < {Ihs_c})&(abs(I(Lcs)) < {Ihs_c}),1,0) > 0
.output (N_c_state) state
.endmachine
* source/drain state machines
R_s_state N_s_state 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Ls)) - {Isw_s} > 0
.rule norm sc abs(I(Ls)) - {Ihs_s} < 0
.output (N_s_state) state
.endmachine
R_d_state N_d_state 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Ld)) - {Isw_d} > 0
.rule norm sc abs(I(Ld)) - {Ihs_d} < 0
.output (N_d_state) state
.endmachine

B_c_hotspot N_c_res 0 V=sdt(if((v(N_c_state) | v(N_s_state) | V(N_d_state)) & v(N_c_res)<{Rnorm_c},
+(2*Rsheet*vo/width_c)*
+(psi*(max(abs(i(Lcs)),abs(i(Lcd)))/{Isw_c})**2-2)
+/((sqrt((({psi}*(max(abs(i(Lcs)),abs(i(Lcd)))/{Isw_c})**2-1)+abs({psi}*(max(abs(i(Lcs)),abs(i(Lcd)))/{Isw_c})**2-1))/2)+{delta})),0),
+0, V(N_c_state)<0.5)

B_s_hotspot N_s_res 0 V=sdt(if(v(N_s_state) & v(N_c_res)>={Rnorm_c/2} & v(N_s_res)<{Rnorm_s},
+(2*Rsheet*vo/width_s)*
+(psi*(i(Ls)/{Isw_s})**2-2)
+/((sqrt((({psi}*(i(Ls)/{Isw_s})**2-1)+abs({psi}*(i(Ls)/{Isw_s})**2-1))/2)+{delta})),0),
+0, V(N_s_state)<0.5)
B_d_hotspot N_d_res 0 V=sdt(if(v(N_d_state) & v(N_c_res)>={Rnorm_c/2} & v(N_d_res)<{Rnorm_d},
+(2*Rsheet*vo/width_d)*
+(psi*(i(Ld)/{Isw_d})**2-2)
+/((sqrt((({psi}*(i(Ld)/{Isw_d})**2-1)+abs({psi}*(i(Ld)/{Isw_d})**2-1))/2)+{delta})),0),
+0, V(N_d_state)<0.5)

.ends ntron_symm
*$
